US04257969
11β,16α,17-Triacetyloxy-9-fluoro-3,20-dioxopregna-1,4-dien-21-oic acid, methyl ester
A suspension of (11β,16α)-9-fluoro-11,16,17-trihydroxy-3,20-dioxopregna-1,4-dien-21-oic acid, methyl ester (150 mg) in a mixture of glacial acetic acid (5.0 ml) and acetic anhydride (5.0 ml) containing p-toluene sulfonic acid hydrate (150 mg) is stirred for 40 hours. Sodium acetate (300 mg) is added and the solution is evaporated in vacuo. The residue is diluted with water, extracted with chloroform and the chloroform extract is washed with water, dried (MgSO4) and evaporated to a solid. The solid is crystallized from ethyl acetate to afford the title compound (164 mg), melting point 317°-319° C. (dec.) (discoloration starts from ca. 280° C.).

reactant | (11β,16α)-9-fluoro-11,16,17-trihydroxy-3,20-dioxopregna-1,4-dien-21-oic acid, methyl ester | 150 mg | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(C(=O)OC)=O)([C@]1(C[C@@H]2O)C)O)O)=O)C | C22H27FO7
reactant | acetic anhydride | 5.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | p-toluene sulfonic acid hydrate | 150 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | Sodium acetate | 300 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 5.0 ml | C(C)(=O)O | C2H4O2
product | 11β,16α,17-Triacetyloxy-9-fluoro-3,20-dioxopregna-1,4-dien-21-oic acid, methyl ester | 164 mg | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2C[C@H]([C@](C(C(=O)OC)=O)([C@]2(C1)C)OC(C)=O)OC(C)=O)=O)C)F | C28H33FO10
